US06794403B2
7-Bromo-2-(3,5-difluoro-4-hydroxyphenyl)-1,3-benzoxazol-5-ol
The title compound was prepared in substantially the same manner as described in Example 21, from 3,5-difluoro-4-methoxybenzoic acid, and 2-amino-6-bromo-4-methoxyphenol, and was obtained as a white solid, m.p. 270-272° C.; MS m/e 340 (M−H)+.

reactant | 3,5-difluoro-4-methoxybenzoic acid | FC=1C=C(C(=O)O)C=C(C1OC)F | C8H6F2O3
reactant | 2-amino-6-bromo-4-methoxyphenol | NC1=C(C(=CC(=C1)OC)Br)O | C7H8BrNO2
product | 7-Bromo-2-(3,5-difluoro-4-hydroxyphenyl)-1,3-benzoxazol-5-ol | BrC1=CC(=CC=2N=C(OC21)C2=CC(=C(C(=C2)F)O)F)O | C13H6BrF2NO3
